US08633312B2
8-(2,4-Difluorophenylamino)-1-(2-morpholin-4-yl-ethoxy)-10,11-dihydrodibenzo[a,d]cyclo-hepten-5-one (11j)
For the synthesis of the title compound, 0.48 g (0.0013 mol) of 8-chloro-1-(2-morpholin-4-yl-ethoxy)-10,11-dihydrodibenzo[a,d]cyclohepten-5-one, 0.17 g (0.0013 mol) of 2,4-difluoroaniline, 2 spatula tips of Pd(OAc)2, 0.14 g of phosphine ligand and 0.70 g (0.0073 mol) of NaOtert-Bu in 10 ml of toluene and 2 ml of tert-BuOH are reacted by method O. Purification is carried out by column chromatography (flash; SiO2; hexane 60%/ethyl acetate 40%).

reactant | 8-chloro-1-(2-morpholin-4-yl-ethoxy)-10,11-dihydrodibenzo[a,d]cyclohepten-5-one | 0.0013 mol, 0.48 g | ClC=1C=CC2=C(CCC3=C(C2=O)C=CC=C3OCCN3CCOCC3)C1 | C21H22ClNO3
reactant | 2,4-difluoroaniline | 0.0013 mol, 0.17 g | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | phosphine | 0.14 g | P | H3P
reactant | NaOtert-Bu | 0.0073 mol, 0.70 g | O([Na])C(C)(C)C
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | tert-BuOH | 2 ml | C(C)(C)(C)O | C4H10O
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 8-(2,4-Difluorophenylamino)-1-(2-morpholin-4-yl-ethoxy)-10,11-dihydrodibenzo[a,d]cyclo-hepten-5-one | FC1=C(C=CC(=C1)F)NC=1C=CC2=C(CCC3=C(C2=O)C=CC=C3OCCN3CCOCC3)C1 | C27H26F2N2O3
